US07279469B2
2-Chloro-pyridin-4-ylamine, (2 g, 15.6 mmol), was dissolved in 20 mL 1M HCl and 4 mL conc. HCl and cooled to 0° C. Sodium nitrite, (1 g, 17 mmol), was dissolved in 2 mL water and added dropwise to the pyridine solution. The mixture was stirred at 0-5° C. for 2 h and then added dropwise to a suspension of SnCl2 in 35 mL conc.HCl at 0° C. The mixture was stirred at 0° C. for 1 h and then the pH carefully raised to pH9-10 with NaOH, using efficient cooling and stirring. The aqueous mixture was extracted with 10% MeOH/chloroform and the organic layer was separated, dried (sodium sulfate), and evaporated. The crude product mixture was purified by column chromatography, (silica, 5% MeOH/DCM), affording 400 mg (2-Chloro-pyridin-4-yl)-hydrazine. MS ES+ 144.0, 146.3

reactant | 2-Chloro-pyridin-4-ylamine | 15.6 mmol, 2 g | ClC1=NC=CC(=C1)N | C5H5ClN2
reactant | Sodium nitrite | 17 mmol, 1 g | N(=O)[O-].[Na+]
reactant | SnCl2 | Cl[Sn]Cl
reactant | NaOH | [OH-].[Na+]
solvent | HCl | 1M, 20 mL | Cl | ClH
solvent | water | 2 mL | O | H2O
solvent | HCl | 4 mL | Cl | ClH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (2-Chloro-pyridin-4-yl)-hydrazine | 400 mg | ClC1=NC=CC(=C1)NN | C5H6ClN3
